US05696117
Methyl 3-[3,4-dihydro-2-(2-hydroxyethyl)-3-oxo-2H-1,4-benzoxazin-4-yl]methylbenzoate
Prepared from 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine by methods F and G, alkylating with 3-(methoxycarbonyl)benzyl chloride, and isolated as a white powder in 87% yield, mp 73°-75° C.; 1H NMR (CDCl3) δ7.92-7.95 (m, 2H), 7.38-7.43 (m, 2H), 6.96-7.03 (m, 2H), 6.91 (dt, J=2.3, 7.3 Hz, 1H), 6.81 (dd, J=1.4, 7.7 Hz, 1H), 5.23 (d, J=16.3 Hz, 1H), 5.16 (d, J=16.3 Hz, 1H), 4.87 (dd, J=5.7, 7.4 Hz, 1H), 3.92-3.95 (m, 2H), 3.91 (s, 3H), 2.21-2.37 (m, 3H containing one exchangeable hydrogen). 13C NMR (CDCl3) δ166.9, 166.7, 144.2, 136.5, 130.9 (CH), 130.7, 129.1 (CH), 128.7 (CH), 128.5, 127.7 (CH), 124.3 (CH), 122.9 (CH), 117.4 (CH), 115.4 (CH), 75.3 (CH), 58.9 (CH2), 52.2 (CH2), 45.1 (CH2), 33.3 (CH2). IR 3569, 2948, 1709, 1676, 1502 cm-1. MS 342 (MH+). Anal. Calc'd. for C19H19NO5 : C, 66.85; H, 5.61;N, 4.10. Found: C, 66.37; H, 5.62; N, 3.97.

reactant | 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=CC=C2 | C16H25NO3Si
reactant | 3-(methoxycarbonyl)benzyl chloride | COC(=O)C=1C=C(CCl)C=CC1 | C9H9ClO2
product | Methyl 3-[3,4-dihydro-2-(2-hydroxyethyl)-3-oxo-2H-1,4-benzoxazin-4-yl]methylbenzoate | 87% yield | OCCC1OC2=C(N(C1=O)CC=1C=C(C(=O)OC)C=CC1)C=CC=C2 | C19H19NO5
